US05294612
A mixture of 1-cyclopentyl-3-ethyl-6-methylsulfonylpyrazolo[3,4-d]pyrimidin-4-one (3.1 g, 0.01 mol) and imidazole (2.1 g, 0.03 mol) was heated at 165°-175° C. for 3.5 hours. The mixture was cooled to room temperature and water (25 ml), followed by acetic acid (3 ml) were added. A precipitate was obtained which was collected by filtration and washed with water. The product was recrystallized from ethanol/ether to afford 2.4 g (81%) of 1-cyclopentyl-3-ethyl-6-(1-imidazolyl)pyrazolo[3,4-d]pyrimidin-4-one as white crystals, m.p. 228°-230° C.

reactant | 1-cyclopentyl-3-ethyl-6-methylsulfonylpyrazolo[3,4-d]pyrimidin-4-one | 0.01 mol, 3.1 g | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)S(=O)(=O)C)CC | C13H18N4O3S
reactant | imidazole | 0.03 mol, 2.1 g | N1C=NC=C1 | C3H4N2
reactant | water | 25 ml | O | H2O
solvent | acetic acid | 3 ml | C(C)(=O)O | C2H4O2
product | 1-cyclopentyl-3-ethyl-6-(1-imidazolyl)pyrazolo[3,4-d]pyrimidin-4-one | 2.4 g, 81% | C1(CCCC1)N1NC(=C2C1=NC(=NC2=O)N2C=NC=C2)CC | C15H18N6O
